US06583133B1
To a solution of 30.6 g (0.06 mol) of (E)-(6R,7R)-3-(3-iodo-propenyl)-8-oxo-7-trimethylsilanylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-4-carboxylic acid trimethylsilanyl ester in 0.22 l of dichloromethane was added at 0° over 5 min a solution of 16.8 g (0.15 mol) of 1,4-diazobicyclo[2.2.2]octane in 0.15 l of acetonitrile. The dark reaction mixture was stirred at 0° for 4 h and then, 0.15 l of 2-propanol were added over 3 min, a precipitate being formed. After stirring was continued for 0.5 h, the pecipitated material was filtered off, washed with 0.1 l of 2-propanol and dried. For purification, this material was dissolved in 0.5 l of water and the pH of the solution was adjusted to 2.5 by the addition of 47% aqueous hydroiodic acid. After stirring for 15 min at 20°, a brown precipitate was filtered off and the clear solution was concentrated in vacuo to a volume of 0.25 l. Upon addition of 1.8 l of 2-propanol a precipitate formed which was isolated by filtration. The crude product was dissolved again in 0.41 of water, and, after removing insoluble material and concentration of the solution to a volume of 0.25 l, the product was precipitated by the addition of 1.5 l of 2-propanol to give 20.4 g of (E)-(6R,7R)-7-amino-3-[3-(4-aza-1-azonia-bicyclo[2,2,2]octan-1-yl)-propenyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid dihydroiodide as a pale-yellow solid.

reactant | (E)-(6R,7R)-3-(3-iodo-propenyl)-8-oxo-7-trimethylsilanylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-4-carboxylic acid trimethylsilanyl ester | 0.06 mol, 30.6 g | C[Si](C)(C)OC(=O)C1C(=CN2C([C@H]([C@H]2S1)N[Si](C)(C)C)=O)\C=C\CI | C16H27IN2O3SSi2
reactant | 1,4-diazobicyclo[2.2.2]octane | 0.15 mol, 16.8 g | C1CN2CCN1CC2 | C6H12N2
reactant | 2-propanol | 0.15 l | CC(C)O | C3H8O
reactant | water | O | H2O
solvent | dichloromethane | 0.22 l | ClCCl | CH2Cl2
solvent | acetonitrile | 0.15 l | C(C)#N | C2H3N
product | (E)-(6R,7R)-7-amino-3-[3-(4-aza-1-azonia-bicyclo[2,2,2]octan-1-yl)-propenyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid dihydroiodide | 20.4 g | I.I.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)\C=C\C[N+]12CCN(CC1)CC2 | InChI=1S/C16H22N4O3S.2HI/c17-12-14(21)19-13(16(22)23)11(10-24-15(12)19)2-1-6-20-7-3-18(4-8-20)5-9-20;;/h1-2,12,15H,3-10,17H2;2*1H/p+1/b2-1+;;/t12-,15-;;/m1../s1
